US07618975B2
(5-Methoxy-pyridin-2-yl)-(2-methyl-quinazolin-4-yl)-amine
2-Amino-5-methoxy-pyridine. A mixture of 2-amino-5-iodo-pyridine (1 g, 4.54 mmol) in 20 mL of absolute methanol with 400 mg of copper powder and sodium methoxide (6 mmol) was heated at 160° C. overnight in a seal tube. The reaction mixture was cooled to room temperature, diluted with 80 mL of methanol and filtered through a pad of celite. The filtrate was concentrated and the residue was purified by chromatography (80% ethyl acetate/hexane) to give the title compound (174 mg, 31%). 1H NMR (CDCl3): 7.78 (d, J=2.7, 1H), 7.09 (dd, J=3.0, 9.0, 1H), 6.48 (d, J=9.0, 1H), 3.78 (s, 3H).

reactant | 2-Amino-5-methoxy-pyridine | NC1=NC=C(C=C1)OC | C6H8N2O
reactant | 2-amino-5-iodo-pyridine | 4.54 mmol, 1 g | NC1=NC=C(C=C1)I | C5H5IN2
reactant | sodium methoxide | 6 mmol | C[O-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 80 mL | CO | CH4O
catalyst | copper | 400 mg | [Cu] | Cu
product | (5-Methoxy-pyridin-2-yl)-(2-methyl-quinazolin-4-yl)-amine | 174 mg, 31% | COC=1C=CC(=NC1)NC1=NC(=NC2=CC=CC=C12)C | C15H14N4O
